US07935830B2
Step A. 3-m-Tolyl-acrylic acid ethyl ester. (Scheme 3)
KHMDS (4.0 g, 20.0 mmol) was added to a solution of ethyl[bis(2,2,2-trifluoro-ethoxy)phosphinyl]acetate (4.7 mL, 20.0 mmol) and 18-crown-6 (10.6 g, 40.0 mmol) in THF (200 mL) at −78° C., and stirred for 30 minutes. m-Tolualdehyde (2.1 mL, 18 mmol) was added and the reaction mixture was stirred for 3 hours from −78° C. to room temperature. The reaction was quenched with aqueous hydrochloric acid (1 M solution, 100 mL), and the product was extracted with EtOAc (3×100 mL). The organic extracts were washed with brine (100 mL), dried over MgSO4, and concentrated to afford the subtitle compound, which was used without further purification. MS calculated for C12H14O2+H: 191, observed: 191.

reactant | KHMDS | 20.0 mmol, 4.0 g | C[Si](C)(C)[N-][Si](C)(C)C.[K+]
reactant | ethyl[bis(2,2,2-trifluoro-ethoxy)phosphinyl]acetate | 20.0 mmol, 4.7 mL | C(C)OC(CP(=O)(OCC(F)(F)F)OCC(F)(F)F)=O | C8H11F6O5P
reactant | 18-crown-6 | 40.0 mmol, 10.6 g | C1COCCOCCOCCOCCOCCO1 | C12H24O6
reactant | m-Tolualdehyde | 18 mmol, 2.1 mL | C1(=CC(=CC=C1)C=O)C | C8H8O
solvent | THF | 200 mL | C1CCOC1 | C4H8O
product | 3-m-Tolyl-acrylic acid ethyl ester | C(C)OC(C=CC=1C=C(C=CC1)C)=O | C12H14O2
